US04478838
(a) 1-(3,4,5-Trimethoxycinnamoyl)-4-[1-(tert-butylaminocarbonyl)ethyl]piperazine
0.78 g of 3,4,5-trimethoxycinnamoyl chloride is added to a solution of 0.50 g of 1-[1-(tert-butylaminocarbonyl)ethyl]piperazine and 0.31 g of triethylamine in 15 ml of chloroform, and the resulting solution is stirred at room temperature for 1 hour.

reactant | 3,4,5-trimethoxycinnamoyl chloride | 0.78 g | COC=1C=C(C=CC(=O)Cl)C=C(C1OC)OC | C12H13ClO4
reactant | 1-[1-(tert-butylaminocarbonyl)ethyl]piperazine | 0.50 g | C(C)(C)(C)NC(=O)C(C)N1CCNCC1 | C11H23N3O
reactant | triethylamine | 0.31 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(3,4,5-Trimethoxycinnamoyl)-4-[1-(tert-butylaminocarbonyl)ethyl]piperazine | COC=1C=C(C=CC(=O)N2CCN(CC2)C(C)C(=O)NC(C)(C)C)C=C(C1OC)OC | C23H35N3O5
